USRE029358
Preparation of 1,5-Bis(p-chlorophenyl)-1,4-pentadien-3-one N-methylamidinohydrazone hydroiodide
A mixture consisting of 3.03 grams of 1,5-bis(p-chlorophenyl)-1,4-pentadien-3-one, 2.16 grams of 1-amino-3-methylguanidine hydroiodide, 3 drops of 57 percent hydroiodic acid, and 50 ml. of n-propanol is stirred and heated under refluxing conditions for two hours. Cooling failed to yield a product. After concentration to about 15 ml. of volume, and addition of 60 ml. of ether, a yellow product is obtained. Recrystallization from ethanol gives 2.67 grams of the subject compound melting 213°-214.5° C.

reactant | 1,5-bis(p-chlorophenyl)-1,4-pentadien-3-one | 3.03 grams | ClC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)Cl)=O | C17H12Cl2O
reactant | 1-amino-3-methylguanidine hydroiodide | 2.16 grams | I.NNC(=N)NC
catalyst | hydroiodic acid | 3 drops | I | HI
solvent | n-propanol | C(CC)O | C3H8O
product | 1,5-Bis(p-chlorophenyl)-1,4-pentadien-3-one N-methylamidinohydrazone hydroiodide | 2.67 grams | I.CNC(=N)NN=C(C=CC1=CC=C(C=C1)Cl)C=CC1=CC=C(C=C1)Cl | InChI=1S/C19H18Cl2N4.HI/c1-23-19(22)25-24-18(12-6-14-2-8-16(20)9-3-14)13-7-15-4-10-17(21)11-5-15;/h2-13H,1H3,(H3,22,23,25);1H
